US06867320B2
Synthesis of 6-bromonaphthalene-2-sulfonic acid methylamide (Intermediate 30)
6-Bromonaphthalene-2-sulfonyl chloride (576 mg) was added portionwise to 40% methylamine solution (5 ml, WAKO), added with 3.6 N aqueous potassium hydroxide (5 ml), stirred at room temperature, then heated to 60° C. and further stirred for 3 hours. The reaction mixture was cooled to room temperature, then added with 2 N hydrochloric acid (15 ml) and extracted with ethyl acetate. The organic layer was washed successively with saturated aqueous sodium hydrogencarbonate and saturated brine and dried, and then the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography (hexane:ethyl acetate=5:1) to obtain the title compound (Intermediate 30, 484 mg).

reactant | 6-Bromonaphthalene-2-sulfonyl chloride | 576 mg | BrC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)Cl | C10H6BrClO2S
reactant | methylamine | 5 ml | CN | CH5N
reactant | potassium hydroxide | 3.6 N, 5 ml | [OH-].[K+]
reactant | hydrochloric acid | 2 N, 15 ml | Cl | ClH
product | 6-bromonaphthalene-2-sulfonic acid methylamide | 484 mg | CNS(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Br | C11H10BrNO2S
